US06369096B1
To a solution of 2-formyl-5-methylpyrrole (4 g; 36.65 mmols) and 4-benzyloxy-3-pyrrolin-2-one (8.24 g; 43.78 mmols) in DMSO (65 ml) 2N sodium hydroxyde (45 ml) was added under nitrogen atmosphere and the mixture was stirred at 60° C. for 8 hours. After dilution with water (200 ml) the yellow suspension was filtered. The crude material was taken up in ethyl acetate, stirred and filtered to give 4-benzyloxy-5-(5-methyl-1H-pyrrol-2-yl-methylene)-1,5-dihydro-pyrrol-2-one (7.7 g; 27.49 mmols) as a 4:1 Z:E mixture. Yield: 75%

reactant | 2-formyl-5-methylpyrrole | 36.65 mmols, 4 g | C(=O)C=1NC(=CC1)C | C6H7NO
reactant | 4-benzyloxy-3-pyrrolin-2-one | 43.78 mmols, 8.24 g | C(C1=CC=CC=C1)OC1=CC(NC1)=O | C11H11NO2
solvent | DMSO | 2N, 65 ml | CS(=O)C | C2H6OS
product | 4-benzyloxy-5-(5-methyl-1H-pyrrol-2-yl-methylene)-1,5-dihydro-pyrrol-2-one | 27.49 mmols, 7.7 g, Yield: 75% | C(C1=CC=CC=C1)OC1=CC(NC1=CC=1NC(=CC1)C)=O | C17H16N2O2
